US05866564
51(i) (2S,4S)-4-(4-Methoxybenzylthio)-2-(4-methyl-1-piperazinylcarbonyl)-1-methylpyrrolidine
700 mg of N,N'-carbonyldiimidazole were added to a suspension of 1.0 g of (2S,4S)-2-carboxy-4-(4-methoxybenzylthio)-1-methylpyrrolidine in 15 ml of dry acetonitrile, and the resulting mixture was stirred at 40° C. for 30 minutes. At the end of this time, the reaction mixture was ice-cooled, and 440 μl of N-methylpiperazine were added to the mixture. The temperature was then allowed to rise to room temperature over a period of 30 minutes. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure, and the residue was purified by reverse phase column chromatography using LiChroprep RP-8 (trade mark) as stationary phase and 70% v/v aqueous methanol as the eluent, to give 1060 mg of the title compound as an oil.

reactant | (2S,4S)-2-carboxy-4-(4-methoxybenzylthio)-1-methylpyrrolidine | 1.0 g | C(=O)(O)[C@H]1N(C[C@H](C1)SCC1=CC=C(C=C1)OC)C | C14H19NO3S
reactant | N-methylpiperazine | 440 μl | CN1CCNCC1 | C5H12N2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | (2S,4S)-4-(4-Methoxybenzylthio)-2-(4-methyl-1-piperazinylcarbonyl)-1-methylpyrrolidine | 1060 mg | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C)C(=O)N2CCN(CC2)C)C=C1 | C19H29N3O2S
